US04407930
C. 6-Amino-4-hydroxy-2-methylbenzoxazole
To a solution of 6-nitro-4-hydroxy-2-methylbenzoxazole (5.1 g, 0.026 mole) in THF (100 ml) and methanol (50 ml) were added about 0.5 g of 10 percent palladium on carbon. The mixture was placed on the Parr-shaker apparatus and hydrogenated two hours. At this time hydrogen uptake was complete (6.3 psi, 0.079 mole). The catalyst was removed and the solvents were removed under reduced pressure. The resulting off-white solid (4.1 g, 97.0 percent) was collected and dried. TLC showed the product to be pure. A ninhydrin test for amines was positive. A silver test for hydroxylamine was negative.

reactant | 6-nitro-4-hydroxy-2-methylbenzoxazole | 0.026 mole, 5.1 g | [N+](=O)([O-])C1=CC2=C(N=C(O2)C)C(=C1)O | C8H6N2O4
reactant | hydrogen | [H][H] | H2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | about 0.5 g | [Pd] | Pd
product | 6-Amino-4-hydroxy-2-methylbenzoxazole | NC1=CC2=C(N=C(O2)C)C(=C1)O | C8H8N2O2
